US05798093
A mixture of 12.1 parts of dimethyl (tetrahydro-3,3-diphenyl-2-furylidene) ammonium bromide, 8.4 parts of 4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol, 8 parts of sodium carbonate, 0.4 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 3 hours with water separator. The reaction mixture is cooled and water is added. The organic layer is separated, washed with diluted sodium hydroxide solution, dried and concentrated to a volume of about 200 parts. The concentrate is acidified with an excess of 2-propanol previously saturated with gaseous hydrogen chloride. Upon stirring, the salt is crystallized. It is filtered off and dried, yielding 4-(4-chloro-3-trifluoromethylphenyl)-4-hydroxy-N,N-dimethyl-α,α-diphenylpiperidine-1 -butyramide hydrochloride; m.p. 215.3° C.

reactant | dimethyl (tetrahydro-3,3-diphenyl-2-furylidene) ammonium bromide | [Br-].C[N+](=C1OCCC1(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 4-(4-chloro-3-trifluoromethylphenyl)-4-hydroxy-N,N-dimethyl-α,α-diphenylpiperidine-1 -butyramide hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(F)(F)F | InChI=1S/C30H32ClF3N2O2.ClH/c1-35(2)27(37)29(22-9-5-3-6-10-22,23-11-7-4-8-12-23)17-20-36-18-15-28(38,16-19-36)24-13-14-26(31)25(21-24)30(32,33)34;/h3-14,21,38H,15-20H2,1-2H3;1H
